US06962914B2
5-Chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridine-3-carbaldehyde (0.90 g, 3.14 mmol) in tetrahydrofuran (50 mL) was treated with ethynylmagnesium bromide (7.5 mL, 0.5 M in tetrahydrofuran, 3.77 mmol) as described in Example 12 to give 1-[5-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-ol (1.05 g, 100%) as a white solid. 1H NMR (CDCl3) δ 8.40 (d, 1H), 8.05 (s, 1H), 7.72 (d, 2H), 7.05 (d, 2H), 6.80 (dd, 1H), 5.78 (s, 1H), 3.91 (s, 3H), 2.74 (s, 1H), 2.53 (s, 1H); MS m/z 313 (M+1).

reactant | 5-Chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridine-3-carbaldehyde | 3.14 mmol, 0.90 g | ClC1=CC=2N(C=C1)N=C(C2C=O)C2=CC=C(C=C2)OC | C15H11ClN2O2
reactant | ethynylmagnesium bromide | 3.77 mmol, 0.5 M, 7.5 mL | C(#C)[Mg]Br
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-[5-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-ol | 1.05 g, 100% | ClC1=CC=2N(C=C1)N=C(C2C(C#C)O)C2=CC=C(C=C2)OC | C17H13ClN2O2
